US05674886
EXAMPLE 65 1-[N-(4-cyanophenyl)-N-(4-methoxybenzyl)amino ]-1H-1,2,4-triazole
Starting Compounds: 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole and 4-methoxybenzyl chloride

reactant | 1-[N-(4-cyanophenyl)amino]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)NN1N=CN=C1 | C9H7N5
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 1-[N-(4-cyanophenyl)-N-(4-methoxybenzyl)amino ]-1H-1,2,4-triazole | C(#N)C1=CC=C(C=C1)N(CC1=CC=C(C=C1)OC)N1N=CN=C1 | C17H15N5O
